US06002008
2-Amino-4-(2-chloro-ethoxy)-5-methoxy-benzoic acid methyl ester
A mixture of 68.2 g (235.4 mmol) of 4-(2-chloro-ethoxy)-5-methoxy-2-nitro-benzoic acid methyl ester and 52.6 g (941.8 mmol) of iron was mechanically stirred at reflux in a mixture containing 62.9 g ammonium chloride, 393 ml water, and 1021 ml methanol for 15 hr. The mixture was concentrated and mixed with ethyl acetate. The organic solution was washed with water and saturated sodium bicarbonate. The solution was dried over magnesium sulfate and filtered through a short column of silica gel. The solution was concentrated to 200 ml and diluted with 250 of hot hexane. After standing 47.7 g of the tide compound was obtained as a solid: mass spectrum (electrospray, m/e) M+H 259.8.

reactant | 4-(2-chloro-ethoxy)-5-methoxy-2-nitro-benzoic acid methyl ester | 235.4 mmol, 68.2 g | COC(C1=C(C=C(C(=C1)OC)OCCCl)[N+](=O)[O-])=O | C11H12ClNO6
reactant | ammonium chloride | 62.9 g | [Cl-].[NH4+]
reactant | water | 393 ml | O | H2O
catalyst | iron | 941.8 mmol, 52.6 g | [Fe] | Fe
solvent | methanol | 1021 ml | CO | CH4O
product | 2-Amino-4-(2-chloro-ethoxy)-5-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)OC)OCCCl)N)=O | C11H14ClNO4
